US04010264
A mixture of 12 g of 4-chloro-3,5-dimethyl isoxazole (prepared by chlorination of 3,5-dimethyl-isoxazole in acetic acid at 50° C) in freshly distilled THF and 13.8 ml of tetramethylenediamine in a 3-necked vessel was reacted under a nitrogen atmosphere with 50 ml of a 20% n-butyl lithium solution in hexane at -70° C and the mixture was stirred for 2 hours. A stream of carbon dioxide was passed therethrough for an hour and then water and diethyl ether were added thereto. The aqueous layer was extracted with diethyl ether at a pH of 2 and the combined organic layers were dried over magnesium sulfate, treated with activated carbon and concentrated to dryness under reduced pressure. The 6.3 g of product was crystallized from a petroleum ether-acetone mixture to obtain 3-methyl-4-chloro-isoxazole-5-yl acetic acid melting at 128°-131° C (sublimation)

reactant | 4-chloro-3,5-dimethyl isoxazole | 12 g | ClC=1C(=NOC1C)C | C5H6ClNO
reactant | tetramethylenediamine | 13.8 ml | NCCCCN | C4H12N2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-methyl-4-chloro-isoxazole-5-yl acetic acid | CC1=NOC(=C1Cl)CC(=O)O | C6H6ClNO3
